US07446199B2
Step B: 3-[(2,3-Difluoro-phenyl)-acetyl]-6-methyl-1,6-dihydro-pyrrolo[2,3-c]pyridin-7-one
To 4-[(2,3-Difluoro-phenyl)-acetyl]-1H-pyrrole-2-carboxylic acid (2,2-dimethoxy-ethyl)-methyl-amide (200 mg, 0.55 mmol) in dioxane (50 mL) was added POCl3 (50 μL, 0.55 mmol) at 0C. The reaction solution was heated to 60C and stirred for 14 hr. The reaction was quenched with water and extracted with ethyl acetate, dried (Na2SO4). Flash chromatography (methylene chloride/methanol) gave 67 mg (41% yield)of title compound.

reactant | 4-[(2,3-Difluoro-phenyl)-acetyl]-1H-pyrrole-2-carboxylic acid (2,2-dimethoxy-ethyl)-methyl-amide | 0.55 mmol, 200 mg | COC(CN(C(=O)C=1NC=C(C1)C(CC1=C(C(=CC=C1)F)F)=O)C)OC | C18H20F2N2O4
reactant | POCl3 | 0.55 mmol, 50 μL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | methylene chloride methanol | C(Cl)Cl.CO
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | 3-[(2,3-Difluoro-phenyl)-acetyl]-6-methyl-1,6-dihydro-pyrrolo[2,3-c]pyridin-7-one | 67 mg, 41% yield | FC1=C(C=CC=C1F)CC(=O)C1=CNC=2C(N(C=CC21)C)=O | C16H12F2N2O2
